US07544679B2
A solution of 135 mg (0.60 mmol) (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one, and 154 mg (0.60 mmol) (R or S )-2-hydroxy-2-(3,3,3-trifluoro-propylcarbamoyl)-pentanoic acid, entity A, in 10 ml tetrahydrofuran were cooled to 0° C. and 93.8 mg (0.60 mmol) 1-hydroxy-benzotriazole hydrate, 210 μl (1.20 mmol) diisopropylethylamine and 117 mg (0.60 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight. Removal of the solvent by distillation and chromatography on silicagel with ethylacetate/heptane (gradient 10:90 to 100:0) yielded 218 mg (78%) (R or S)-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-N-(3,3,3-trifluoro-propyl)-malonamide, entity A: MS (m/e): 462.0 (M−H)−.

reactant | (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one | 0.60 mmol, 135 mg | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | 2-hydroxy-2-(3,3,3-trifluoro-propylcarbamoyl)-pentanoic acid | OC(C(=O)O)(CCC)C(NCCC(F)(F)F)=O | C9H14F3NO4
reactant | 1-hydroxy-benzotriazole hydrate | 0.60 mmol, 93.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 1.20 mmol, 210 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.60 mmol, 117 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-N-(3,3,3-trifluoro-propyl)-malonamide | OC(C(=O)N(CCC(F)(F)F)[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)(C(=O)N)CCC | C23H24F3N3O4
